US07576089B2
1-(6-Pyrimidin-2-ylpyridin-3-yl)-4-{[(3S)-1-({1-[4-(trifluoromethyl)pyridin-2-yl]-1H-imidazol-4-yl}carbonyl)pyrrolidin-3-yl]amino}cyclohexanol
To a solution of (3S)-1-({1-[4-(trifluoromethyl)pyridin-2-yl]-1H-imidazol-4-yl}carbonyl)pyrrolidin-3-amine (50 mg, 0.15 mmol) and 4-hydroxy-4-(6-pyrimidin-2-ylpyridin-3-yl)cyclohexanone (41 mg, 0.15 mmol) in methylene chloride (3 mL) was added sodium triacetoxyborohydride (36 mg, 0.17 mmol) followed by triethylamine (0.086 mL, 0.61 mmol). After being stirred at room temperature for 2 h, EtOAc (50 mL) was added. The solution was washed with NaHCO3 solution and water, dried (MgSO4) and concentrated. Purification by HPLC provided two isomers. MS (M+H) 579.3 for both isomers.

reactant | (3S)-1-({1-[4-(trifluoromethyl)pyridin-2-yl]-1H-imidazol-4-yl}carbonyl)pyrrolidin-3-amine | 0.15 mmol, 50 mg | FC(C1=CC(=NC=C1)N1C=NC(=C1)C(=O)N1C[C@H](CC1)N)(F)F | C14H14F3N5O
reactant | 4-hydroxy-4-(6-pyrimidin-2-ylpyridin-3-yl)cyclohexanone | 0.15 mmol, 41 mg | OC1(CCC(CC1)=O)C=1C=NC(=CC1)C1=NC=CC=N1 | C15H15N3O2
reactant | sodium triacetoxyborohydride | 0.17 mmol, 36 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 0.61 mmol, 0.086 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-(6-Pyrimidin-2-ylpyridin-3-yl)-4-{[(3S)-1-({1-[4-(trifluoromethyl)pyridin-2-yl]-1H-imidazol-4-yl}carbonyl)pyrrolidin-3-yl]amino}cyclohexanol | N1=C(N=CC=C1)C1=CC=C(C=N1)C1(CCC(CC1)N[C@@H]1CN(CC1)C(=O)C=1N=CN(C1)C1=NC=CC(=C1)C(F)(F)F)O | C29H29F3N8O2
